US06140330
To a solution of dimethyl {[3-methoxy-4-(2-benzothiazolylaminocarbonylmethoxy)benzoyl]methyl}phosphonate (1.7 g) and pyridine-4-aldehyde (0.5 g) in tetrahydrofuran (30 ml) is added a 5% aqueous sodium hydroxide solution (6 ml) under ice-cooling, and the mixture is stirred for 5 hours. The mixture is neutralized with acetic acid, and the precipitated crystals are collected by filtration, and then recrystallized from dichloromethane-ethanol-diethyl ether to give 2-{2-methoxy-4-[3-(4-pyridyl)acryloyl]phenoxymethylcarbonylamino}benzothiazole (1.3 g).

reactant | dimethyl {[3-methoxy-4-(2-benzothiazolylaminocarbonylmethoxy)benzoyl]methyl}phosphonate | 1.7 g | COC=1C=C(C(=O)CP(OC)(OC)=O)C=CC1OCC(=O)NC=1SC2=C(N1)C=CC=C2 | C20H21N2O7PS
reactant | pyridine-4-aldehyde | 0.5 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | sodium hydroxide | 6 ml | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-{2-methoxy-4-[3-(4-pyridyl)acryloyl]phenoxymethylcarbonylamino}benzothiazole | 1.3 g | COC1=C(OCC(=O)NC=2SC3=C(N2)C=CC=C3)C=CC(=C1)C(C=CC1=CC=NC=C1)=O | C24H19N3O4S
